US04381221
A 300-ml autoclave equipped with an agitator was charged with 23 g of dimethyl ether, 56.4 g of phenyl, 30 g of acetic acid, 1.0 g of RhCl(CO)(Pφ3)2 and 14.2 g of methyl iodide, following which the reaction was carried out at 190° C. and a carbon monoxide pressure of 30 kg/cm2 gauge (total pressure of 50 kg/cm2 gauge). The yields of acetic acid and phenyl acetate were 97.3% and 97.2%, respectively. The reaction was repeated several times, and the resulting reaction product liquids were collected and used in Example 14.

reactant | dimethyl ether | 23 g | COC | C2H6O
reactant | methyl iodide | 14.2 g | CI | CH3I
reactant | carbon monoxide | [C]=O | CO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 30 g | C(C)(=O)O | C2H4O2
product | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
